US06451734B1
4-[(4-Chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)methyl]-2,3-dichlorophenol (No. Ia.8)
18.1 ml (18 mmol) of a 1-molar solution of boron tribromide in dichloromethane were added to a solution of 3.37 g (9 mmol) of 4-chloro-3-(2,3-dichloro-4-methoxybenzyl)-5-difluoromethoxy-1-methyl-1H-pyrazole in 45 ml of dichloromethane which had been cooled to (−78)° C. After 3 days of stirring at approximately 20° C., the mixture was admixed with 100 ml of water. The undissolved fraction was subsequently filtered off and washed with 100 ml of dichloromethane. The aqueous phase was extracted again with 100 ml of dichloromethane. The combined organic phases were washed with water, dried over sodium sulfate and subsequently concentrated. Yield: 1.1 g; m.p.: 127—128° C.

reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | 4-chloro-3-(2,3-dichloro-4-methoxybenzyl)-5-difluoromethoxy-1-methyl-1H-pyrazole | 9 mmol, 3.37 g | ClC=1C(=NN(C1OC(F)F)C)CC1=C(C(=C(C=C1)OC)Cl)Cl | C13H11Cl3F2N2O2
reactant | water | 100 ml | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 45 ml | ClCCl | CH2Cl2
product | 4-[(4-Chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)methyl]-2,3-dichlorophenol | ClC=1C(=NN(C1OC(F)F)C)CC1=C(C(=C(C=C1)O)Cl)Cl | C12H9Cl3F2N2O2
